US07932272B2
Pyrrolo[3,2-b]pyridine-1-carboxylic acid 3-phenoxy-benzylamide
1H-Pyrrolo[3,2-b]pyridine described in Preparation Example S-4 (44 mg, 0.37 mmol) was dissolved in N,N-dimethylformamide (3 mL), sodium hydride (18 mg, 0.45 mmol, 60% in oil) was added thereto, followed by stirring at room temperature for 30 minutes. Next, (4-phenoxy-benzyl)-carbamic acid phenyl ester described in Preparation Example 75 (143 mg, 0.45 mmol) was added, and the solution was stirred at room temperature for 2 hours. After the reaction was completed, the reaction solution was poured into brine, which was then extracted with ethyl acetate, and concentrated. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1), and the title compound (11 mg, 0.032 mmol, 8.7%) was obtained.

reactant | 1H-Pyrrolo[3,2-b]pyridine | N1C=CC2=NC=CC=C21 | C7H6N2
reactant | sodium hydride | 0.45 mmol, 18 mg | [H-].[Na+]
reactant | (4-phenoxy-benzyl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NCC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C20H17NO3
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | Pyrrolo[3,2-b]pyridine-1-carboxylic acid 3-phenoxy-benzylamide | 0.032 mmol, 11 mg, 8.7% | O(C1=CC=CC=C1)C=1C=C(CNC(=O)N2C=CC3=NC=CC=C32)C=CC1 | C21H17N3O2
